US07727979B2
N-(pentanoyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine
Diisopropylethylamine (0.22 mmol) and then pentanoyl chloride (0.11 mmol) are added to a stirred suspension of N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine-dihydrochloride (0.1 mmol) in dimethylformamide (0.7 ml) and the reaction mixture is stirred for another 16 hours at room temperature. After the addition of 2M caustic soda solution (1 ml) extraction is carried out with ethyl acetate. The combined organic phases produce the pure title compound after drying over sodium sulphate and concentrating to dryness.

reactant | Diisopropylethylamine | 0.22 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pentanoyl chloride | 0.11 mmol | C(CCCC)(=O)Cl | C5H9ClO
reactant | N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine-dihydrochloride | 0.1 mmol | Cl.Cl.N1=C(SC=2CNCCC21)NC(=N)N
reactant | caustic soda | 2M, 1 ml | [OH-].[Na+]
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(pentanoyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine | C(CCCC)(=O)C1NCCC2=C1SC(=N2)NC(=N)N | C12H19N5OS
